US06825351B2
Preparation of 5,6,7,8-tetrahydroquinoline-3-carboxylic acid methyl ester
Representative procedure for small scale hydrogenation reactions. To a 2 or 3-neck, 100 ml round bottom flask containing a stir bar was added methyl quinoline-3-carboxylate (170 mg, 0.908 mmol) and platinum(IV) oxide (10.3 mg, 5 mol %). The flask was equipped with two outlets sealed with rubber septa and containing Teflon stopcocks. Trifluoroacetic acid (3.0 mL), which was purged with argon gas to remove oxygen, was added via a plastic syringe into the reaction flask under an atmosphere of nitrogen. The stirred reaction mixture was flushed and the flask filled with hydrogen gas via a needle from a balloon through one of the septa-sealed outlets. The Teflon stopcocks were closed and the reaction mixture was warmed to 60° C. and stirred for 5 hours. The progress of the reaction was monitored by GC and TLC. The reaction mixture was cooled to room temperature and aqueous saturated sodium bicarbonate solution was added until the mixture was neutral. The mixture was then extracted with CH2Cl2 (3×30 mL), dried (MgSO4), and the solvent was removed in vacuo. The crude material thus obtained was separated by flash chromatography (silica gel, 10% EtOAc in hexanes). The title compound was obtained as a yellowish liquid (121 mg, 70%) which displayed: 1H NMR (CDCl3, 300 MHz): δ 1.80-2.00 (m, 4H), 2.79-2.85 (m, 2H), 2.90-3.00 (m, 2H), 3.91 (s, 3H), 7.95 (s, 1H), 8.93 (s, 1H); 13C NMR (CDCl3): δ 22.8, 23.1, 28.9, 30.0, 33.1, 52.5, 123.7, 132.5, 138.0, 148.2, 162.6, 166.5; MS m/z: 192 (M+H+). 1,2,3,4-Tetrahydroquinoline-3-carboxylic acid methyl ester also was isolated (19 mg, 11%).

reactant | methyl quinoline-3-carboxylate | 0.908 mmol, 170 mg | N1=CC(=CC2=CC=CC=C12)C(=O)OC | C11H9NO2
catalyst | platinum(IV) oxide | 10.3 mg | [Pt](=O)=O
product | 5,6,7,8-tetrahydroquinoline-3-carboxylic acid methyl ester | COC(=O)C=1C=NC=2CCCCC2C1 | C11H13NO2
